US05254692
Methyl 2,6-dimethyl-3-nitro-4-(2-phenyl-benzothiazol-7-yl)-1,4-dihydropyridine-5-carboxylate
10 mmol of 2-phenyl-benzothiazole-7-carboxaldehyde, 10 mmol of nitroacetone and 10 mmol of methyl 3-aminocrotonate are boiled in 20 ml of ethanol overnight, the mixture is concentrated and the residue is purified on a silica gel column (cyclohexane/ethyl acetate=6:4) Yield: 25% of yellow crystals M.p.: 233° C. (dec.)

reactant | 2-phenyl-benzothiazole-7-carboxaldehyde | 10 mmol | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2C=O | C14H9NOS
reactant | nitroacetone | 10 mmol | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | methyl 3-aminocrotonate | 10 mmol | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Methyl 2,6-dimethyl-3-nitro-4-(2-phenyl-benzothiazol-7-yl)-1,4-dihydropyridine-5-carboxylate | Yield: 25% | CC=1NC(=C(C(C1[N+](=O)[O-])C1=CC=CC=2N=C(SC21)C2=CC=CC=C2)C(=O)OC)C | C22H19N3O4S
